US04026900
To a mixture containing 28.9 g. of 3-(3-pyridinyl)-2-cyclohexen-1-one oxime, 42 ml. of acetic acid and 42 ml. of acetic anhydride was passed gaseous hydrogen chloride whereupon the temperature rose to about 120° C. The hydrogen chloride was passed continuously into the reaction mixture until the temperature fell to about 50° C. The reaction mixture was allowed to stand for three hours and then concentrated in vacuo to yield, as a glassy material, 3-(3-acetamidophenyl)pyridine. To this material was added 100 ml. of water and 25 ml. of concentrated hydrochloric acid and the resulting mixture was refluxed for sixteen hours and concentrated in vacuo to yield a yellow solid. The solid was taken up in water and the solution was made alkaline with 35% aqueous sodium hydroxide solution. The alkaline solution was extracted three times with ethylene dichloride. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield an oil. The oil was distilled under reduced pressure, collecting the fraction boiling at 141°-145° C. at 0.15 mm. to yield, first as a yellow oil which crystallized on cooling, 17.7 g. of 3-(3-aminophenyl)pyridine, m.p. 72°- 74° C.

reactant | 3-(3-pyridinyl)-2-cyclohexen-1-one oxime | N1=CC(=CC=C1)C1=CC(CCC1)=NO | C11H12N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(3-acetamidophenyl)pyridine | C(C)(=O)NC=1C=C(C=CC1)C=1C=NC=CC1 | C13H12N2O
